US04294972
To a slurry of zinc (65.0 g, 1.0 mol) in benzene (100 ml), containing a small crystal of iodine, refluxed with stirring, was added carefully 60 ml of mixture of octan-2-one (76.8 g, 0.6 mol), ethyl bromoacetate (167.0 g, 1.0 mol) and benzene (100 ml). After initiation of the reaction, the rest of the reaction mixture was added at such a rate that reflux was maintained. After complete addition of the ketone mixture the resultant reaction mixture was boiled at reflux for a further 1 hr. The mixture was then cooled and poured into ice-cold 20% sulphuric acid (400 ml), and the mixture was extracted with diethyl ether (4×200 ml). The combined extracts were washed with water (200 ml), saturated sodium hydrogen carbonate solution (2×250 ml) and saturated sodium chloride solution until neutral. The extract was then dried (Na2SO4) and filtered and the filtrate was concentrated in vacuo to give an oil. This residual oil was distilled to afford ethyl 3-methyl-3-hydroxynonanoate (70.0 g), b.pt. 88°-90° C./0.07 mm Hg.

reactant | iodine | II | I2
reactant | octan-2-one | 0.6 mol, 76.8 g | CC(CCCCCC)=O | C8H16O
reactant | ethyl bromoacetate | 1.0 mol, 167.0 g | BrCC(=O)OCC | C4H7BrO2
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
catalyst | zinc | 1.0 mol, 65.0 g | [Zn] | Zn
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | ethyl 3-methyl-3-hydroxynonanoate | 70.0 g | CC(CC(=O)OCC)(CCCCCC)O | C12H24O3
